US08497264B2
A sealable vial was charged with 7-bromo-1-fluoro-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine (200 mg, 0.444 mmol), 2-fluoropyridin-3-ylboronic acid (125 mg, 0.888 mmol), bis[di-tert-butyl(4-dimethylaminophenyl)phosphine]dichloropalladium(II) (31.4 mg, 0.044 mmol) and potassium phosphate (283 mg, 1.332 mmol). The vial was evacuated and backfilled with nitrogen (procedure was repeated twice). Dioxane (3 mL) and water (1 mL) were added and the reaction mixture was purged for 1 min with nitrogen. The vial was placed in a preheated oilbath (100° C.) for start 1.5 h. The reaction mixture was cooled to rt and water and EtOAc were added to the reaction mixture. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by column chromatography (1-10% MeOH in DCM) to obtain 1-fluoro-7-(2-fluoropyridin-3-yl)-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine as a beige solid (185 mg).

reactant | 7-bromo-1-fluoro-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 0.444 mmol, 200 mg | BrC=1C=C2C(=CC1)OC=1C(=NC(=CC1C21COCC(=N1)N)OCC(C)(C)C)F | C20H21BrFN3O3
reactant | 2-fluoropyridin-3-ylboronic acid | 0.888 mmol, 125 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | potassium phosphate | 1.332 mmol, 283 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
product | 1-fluoro-7-(2-fluoropyridin-3-yl)-3-(neopentyloxy)-2′,6′-dihydrospiro[chromeno[2,3-c]pyridine-5,3′-[1,4]oxazin]-5′-amine | 185 mg | FC1=NC(=CC2=C1OC1=CC=C(C=C1C21COCC(=N1)N)C=1C(=NC=CC1)F)OCC(C)(C)C | C25H24F2N4O3
